US06177452B1
Titanium tetrachloride(15.5 g) was added dropwise into a mixture of 4-(4-chlorophenyl)-4-oxazolin-2-one(4.00 g), ethyl chloroglyoxylate(5.58 g) and dichloromethane(30 ml) at room temperature. After stirring for 2 hours, the reaction mixture was poured into ice water, and extracted with ethyl acetate. The ethyl acetate layer was washed with water, and dried(MgSO4). The solvent was evaporated to give ethyl 2-[4-(4-chlorophenyl)-2-oxo-4-oxazolin-5-yl]-2-oxoacetate as crystals(5.38 g, 89%). This was recrystallized from ethyl acetate-hexane to give pale yellow prisms. mp 152-153° C.

reactant | 4-(4-chlorophenyl)-4-oxazolin-2-one | 4.00 g | ClC1=CC=C(C=C1)C=1NC(OC1)=O | C9H6ClNO2
reactant | ethyl chloroglyoxylate | 5.58 g | ClC(C(=O)OCC)=O | C4H5ClO3
catalyst | Titanium tetrachloride | 15.5 g | [Ti](Cl)(Cl)(Cl)Cl
solvent | dichloromethane | 30 ml | ClCCl | CH2Cl2
product | ethyl 2-[4-(4-chlorophenyl)-2-oxo-4-oxazolin-5-yl]-2-oxoacetate | 5.38 g, 89% | ClC1=CC=C(C=C1)C=1NC(OC1C(C(=O)OCC)=O)=O | C13H10ClNO5
